US07226923B2
2-(4-tert-Butyl-phenyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-6-nitro-2H-phthalazin-1-one
12 mg 6-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one (preparation see ZB-1) were deprotected by heating in formic acid as described for ZB-1. Evaporation of excess formic acid and chromatography of the residue on silica, eluting with dichloromethane and then with dichloromethane/methanol 20:1 gave 5 mg of the title product. 1H-NMR: (400 MHz, D6-DMSO) 11.9 (1H, br s), 9.78 (1H, s), 9.52 (1H, s), 8.65–8.56 (2H, m), 7.65 (2H, d), 7.53 (2H, d), 6.26 (1H, s), 2.20 (3H, s), 1.35 (9H, s); MS (ESI+)=418.32 (M+H)+.

reactant | 6-Nitro-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one | 12 mg | [N+](=O)([O-])C=1C=C2C(=NN(C(C2=CC1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1N(N=C(C1)C)C(C)(C)C | C26H30N6O3
solvent | formic acid | C(=O)O | CH2O2
product | 2-(4-tert-Butyl-phenyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-6-nitro-2H-phthalazin-1-one | 5 mg | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=CC=C(C=C2C(=N1)NC=1NN=C(C1)C)[N+](=O)[O-])=O | C22H22N6O3
